US05681958
4-Chloro-2-(bromoacetamido)benzoic Acid
A solution of 2-amino-4-chlorobenzoic acid (10 g, 0.06 mmol), anhydrous DMF (30 mL) and anhydrous dioxane was cooled to 0° C. in 300 mL 3-necked flask fitted with magnetic stirrer and constant additional funnel. Bromoacetyl bromide was added dropwise over a 2 h period, keeping the internal temperature between 0°-2° C. After the addition was completed, the solution was allowed to warm to room temperature and the reaction mixture was stirred 20 h. The reaction mixture was cooled in an ice-bath and slowly diluted with water (300 mL). The resulting white crystalline product was filtered. Recrystallization from EtOAc/Hex afforded 9.2 g (54%) of the title compound, mp 156.4°-158° C.; 1H NMR (DMSO-d6) δ 13.99 (s, 1H, NH), 11.72 (s, 1H, COOH), 8.54 (d, 1H, J=2.0), 8.00 (d, 1H, J=8.8), 7.27 (dd, 1H, J=2.4, J=6.4), 4.28 (s, 2H); 13C NMR (DMSO-d6) δ 168.60, 165.54, 141.12, 138.51, 133.88, 123.36, 119.23, 115.58, 30.54; MS (EI, m/z) 293 (M+).

reactant | 2-amino-4-chlorobenzoic acid | 0.06 mmol, 10 g | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | Bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
solvent | water | 300 mL | O | H2O
product | 4-Chloro-2-(bromoacetamido)benzoic Acid | 9.2 g, 54% | ClC1=CC(=C(C(=O)O)C=C1)NC(CBr)=O | C9H7BrClNO3
